US05041638
2-(4-Methoxycarbonylphenylthio)-2-tert.butoxycarbonylcyclohexanone
A solution 10.8 g (53.2 mmol) of 4-methoxycarbonylphenylsulphenic acid chloride in 20 ml of methylene chloride (analytically pure) is added dropwise to a solution of 11.4 g (57 mmol) of 2-tert. butoxycarbonylcyclohexanone and 7.5 g (75 mmol) of triethylamine in 150 ml of methylene chloride. When the dropwise addition has ended the mixture is subsequently stirred for 15 mins. and is then diluted with methylene chloride and the organic phase is washed with 2N sulphuric acid and a saturated bicarbonate solution, dried with sodium sulphate and concentrated by evaporation. 20.5 g of a crude product are thus obtained, which is chromatographed on 2 kg of silica gel (Merck Si 60, 0.04-0.063 nm) using petroleum ether/ether 8:20 as the mobile solvent. A fraction is thus obtained which, after being concentrated by evaporation, yields 11 g of a solid product.

reactant | 4-methoxycarbonylphenylsulphenic acid chloride | 53.2 mmol, 10.8 g | COC(=O)C1=CC=C(C=C1)SCl | C8H7ClO2S
reactant | 2-tert. butoxycarbonylcyclohexanone | 57 mmol, 11.4 g | C(C)(C)(C)OC(=O)C1C(CCCC1)=O | C11H18O3
reactant | triethylamine | 75 mmol, 7.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxycarbonylphenylthio)-2-tert.butoxycarbonylcyclohexanone | 11 g, Yield: 52.4% | COC(=O)C1=CC=C(C=C1)SC1(C(CCCC1)=O)C(=O)OC(C)(C)C | C19H24O5S
